US07241791B2
3-(4-methoxyphenyl)-7-trifluoromethyl-1H-indazole
Prepared according to Method D Step A from (2-Fluoro-3-trifluoromethylphenyl)-(4-methoxyphenyl)-methanone (3.6 g, 14.7 mmol), hydrazine hydrate (4.3 mL, 140 mmol) and DMAP (1.8 g, 14.7 mmol) to give the product (1.7 g) as a yellow solid.

reactant | (2-Fluoro-3-trifluoromethylphenyl)-(4-methoxyphenyl)-methanone | 14.7 mmol, 3.6 g | FC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=C(C=C1)OC | C15H10F4O2
reactant | hydrazine hydrate | 140 mmol, 4.3 mL | O.NN
catalyst | DMAP | 14.7 mmol, 1.8 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(4-methoxyphenyl)-7-trifluoromethyl-1H-indazole | 1.7 g | COC1=CC=C(C=C1)C1=NNC2=C(C=CC=C12)C(F)(F)F | C15H11F3N2O
